US08232278B2
Synthesis of 2-acetamido-4-(piperazin-1-yl)-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine
Piperazine (430 mg, 5 mmole) was added to a stirred suspension of 2-acetamido-6-(3,4-dimethoxyphenyl)-4-(1,2,4-triazolyl)pyrido[3,2-d]pyrimidine (977 mg, 2.5 mmole) in dioxane (70 ml). The reaction mixture was refluxed for 16 hours. The precipitate was filtered off and washed with a small amount of dioxane. The filtrate was evaporated to dryness and the residue washed with diethyl ether. Both fractions (the precipitate and the washed filtrate) were combined, resulting in the pure title compound (805 mg, yield 79%) which was characterized by its mass spectrum as follows: MS (m/z): 409 ([M+H]+, 100).

reactant | Piperazine | 5 mmole, 430 mg | N1CCNCC1 | C4H10N2
reactant | 2-acetamido-6-(3,4-dimethoxyphenyl)-4-(1,2,4-triazolyl)pyrido[3,2-d]pyrimidine | 2.5 mmole, 977 mg | C(C)(=O)NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)C2=NNC=N2 | C19H17N7O3
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 2-acetamido-4-(piperazin-1-yl)-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 805 mg, yield 79% | C(C)(=O)NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)N2CCNCC2 | C21H24N6O3
